US06949542B2
4-[3-(6-Amino-pyridin-3-yl)-phenyl]-7-methyl-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared by the following sequence: 1.) To a solution of 3-[3-(6-Amino-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K25) (1.0 g, 3.2 mmol) and DMAP (8 mg, 0.064 mmol) in THF (6.4 mL) was added Boc2O (699 mg, 3.2 mmol) and mixture was stirred for 26.5 h at 23° C., poured onto sat. NaHCO3-solution (20 mL), extracted with EtOAc (twice 25 mL). The combined organic layers were washed with 0.5 M HCl (20 mL) and brine (20 mL), dried over Na2SO4. Removal of the solvent in vacuum left a light brown foam (1.273 g). 2.) Part of this material (206 mg, 0.5 mmol) and (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J20) (218 mg, 0.75 mmol) were refluxed in toluene (3 mL) for 8 h, then the reaction mixture was cooled to 23° C., the precipitate was filtered off and washed with Et2O (10 mL) to give a yellow solid (70.8 mg). 3.) Part of the obtained material (63.7 mg, 0.101 mmol) was converted into the title compound by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light yellow solid (25.2 mg, 61%).

reactant | 3-[3-(6-Amino-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 3.2 mmol, 1.0 g | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)N)=O | C18H20N2O3
reactant | Boc2O | 3.2 mmol, 699 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
reactant | (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 218 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)N)=O | C13H17F3N2O2
catalyst | DMAP | 0.064 mmol, 8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 6.4 mL | C1CCOC1 | C4H8O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[3-(6-Amino-pyridin-3-yl)-phenyl]-7-methyl-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | NC1=CC=C(C=N1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)C)C(F)(F)F | C22H17F3N4O
